US04160845
Preparation of N-cyclohexyl-N-(1,1,2,2-tetrachloroethylthio)trichlorovinylsulfonamide
A 4.0 g (0.04 mol) sample of triethylamine was added dropwise to a cooled (-10° to 0° C.) solution of 9.5 g (0.0324 mol) N-(cyclohexyl)trichlorovinylsulfonamide, m.p. 152°-153° C., and 7.6 g (0.0324 mol) 1,1,2,2-tetrachloroethylsulfenyl chloride in 200 ml dichloromethane. The reaction mixture was then stirred at about 25° C. for 3 hours, washed with water, dried over magnesium sulfate and evaporated to give an oil. The oil was chromatographed on silica gel. The N-cyclohexyl-N-(1,1,2,2-tetrachloroethylthio)trichlorovinylsulfonamide product, 11 g (72% yield), was eluted from the silica gel with 30% ether/20% hexane. The infrared spectrum of the product showed strong absorption bands at 1385 cm-1 and 1160 cm-1. The elemental analysis for the product is tabulated in Table I under Compound No. 6.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | N-(cyclohexyl)trichlorovinylsulfonamide | 0.0324 mol, 9.5 g | C1(CCCCC1)NS(=O)(=O)C(=C(Cl)Cl)Cl | C8H12Cl3NO2S
reactant | 1,1,2,2-tetrachloroethylsulfenyl chloride | 0.0324 mol, 7.6 g | ClC(C(Cl)Cl)(SCl)Cl | C2HCl5S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | N-cyclohexyl-N-(1,1,2,2-tetrachloroethylthio)trichlorovinylsulfonamide | 72% yield | C1(CCCCC1)N(S(=O)(=O)C(=C(Cl)Cl)Cl)SC(C(Cl)Cl)(Cl)Cl | C10H12Cl7NO2S2
